US08541411B2
d) N-(2-methoxy-4-morpholino-6-nitrophenyl)acetamide
A mixture of N-(4-bromo-2-methoxy-6-nitrophenyl)acetamide (2.89 g), morpholine (2.61 g), BINAP (1.21 g) and t-BuOK (1.53 g) in dioxane (50 mL) was degassed with N2 and the mixture was stirred at 110° C. in a sealed tube overnight. It was cooled to room temperature and filtered. The filtrate was concentrated in-vacuo. The residue was purified by silica gel chromatography eluted with MeOH/DCM=1/50 to afford the desired product (1.03 g, 35%) 1H NMR (300 MHz, CDCl3) δ ppm 2.15 (s, 1H), 3.18 (t, 4H, J=4.8 Hz), 3.85 (t, 4H, J=4.8 Hz), 3.88 (s, 3H), 6.63 (d, 1H, J=2.7 Hz), 6.96 (d, 1H, J=2.7 Hz).

reactant | N-(4-bromo-2-methoxy-6-nitrophenyl)acetamide | 2.89 g | BrC1=CC(=C(C(=C1)[N+](=O)[O-])NC(C)=O)OC | C9H9BrN2O4
reactant | morpholine | 2.61 g | N1CCOCC1 | C4H9NO
reactant | BINAP | 1.21 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | t-BuOK | 1.53 g | CC(C)(C)[O-].[K+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | N-(2-methoxy-4-morpholino-6-nitrophenyl)acetamide | 1.03 g, 35% | COC1=C(C(=CC(=C1)N1CCOCC1)[N+](=O)[O-])NC(C)=O | C13H17N3O5
